US03947405
18.9 g (0.030 mol) of neohesperidin are dissolved in 90 ml of 2-N sodium hydroxide and treated with 1.2 g of Raney-nickel. The mixture is hydrogenated under normal pressure for 15 hours. The hydrogen uptake corresponds to 30 mmol. The solution is filtered and adjusted to pH 6 with 36 ml of 5-N hydrochloric acid while cooling with ice and stirring. The resulting clear yellow solution is left in a refrigerator for 48 hours and then filtered under suction. The white residue is washed with cold water and dried overnight in a high vacuum. There are obtained 17.4 g (95% yield) of neohesperidin dihydrochalcone of melting point 150°C.

reactant | neohesperidin | 0.030 mol, 18.9 g | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C=C(C4=C(C3)O[C@@H](CC4=O)C=5C=CC(=C(C5)O)OC)O)CO)O)O)O)O)O | C28H34O15
reactant | hydrogen | [H][H] | H2
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | Raney-nickel | 1.2 g | [Ni] | Ni
product | neohesperidin dihydrochalcone | 17.4 g, 95% yield | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C=C(C(=C(C3)O)C(=O)CCC=4C=CC(=C(C4)O)OC)O)CO)O)O)O)O)O | C28H36O15
